US05185266
Modification of Leu-TH with PAM Linker
Two g (0.0074 mole) t-BocLeuTH, prepared as in 1A above, was dissolved in 10 mL CH3CN. One equivalent of 4-(bromomethyl)-phenylacetic acid phenacyl ester, "PAM" Linker (2.2 g, 0.0074 mole), and one equivalent TEA (1 mL, 0.0072 mole) were added. The reaction mixture was heated to about 60°-80 ° C. for 8 min., then stored at -20° C. overnight. A precipitant of TEA.HBr was removed by filtration, and the supernatant was concentrated under reduced atmospheric pressure, resulting in the formation of an oil. The oil was treated with TFA (100%) at 50 ° C. for 45 min. The subsequent complete removal of TFA produced a white solid. The solid was dissolved and purified using column chromatography on silica gel, with elution in CH2Cl2 :CH3OH (9:1), the product displayed a rf of about 0.5. The purified material was analyzed by NMR, as above, and the characteristic peaks were: 7.89-7.23 (aromatics), 5.34 (O--CH2 --C=O) 4.34 (O--CH2 --Ar), 4.1-3.9 (CH- ring), 3.74 (Ar--CH2C--O), 1.9-1.6 (sidechain --CH-- and --CH2), 0.905 (two CH3 --).

reactant | 4-(bromomethyl)-phenylacetic acid phenacyl ester | One equivalent | C(C(=O)C1=CC=CC=C1)OC(CC1=CC=C(C=C1)CBr)=O | C17H15BrO3
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH3CN | 10 mL | CC#N | C2H3N
product | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
